US07737156B2
6-(Cyclohexylmethyl)-1-(1-ethylpropyl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one
The product is obtained in analogy to Example 1/stage 1c) starting from 200 mg (1.02 mmol) of 5-amino-1-(1-ethylpropyl)-1H-pyrazole-4-carboxamide and 482 mg (3.06 mmol) of methyl cyclohexylacetate.

reactant | 5-amino-1-(1-ethylpropyl)-1H-pyrazole-4-carboxamide | 1.02 mmol, 200 mg | NC1=C(C=NN1C(CC)CC)C(=O)N | C9H16N4O
reactant | methyl cyclohexylacetate | 3.06 mmol, 482 mg | C1(CCCCC1)CC(=O)OC | C9H16O2
product | 6-(Cyclohexylmethyl)-1-(1-ethylpropyl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one | C1(CCCCC1)CC=1NC(C2=C(N1)N(N=C2)C(CC)CC)=O | C17H26N4O
